US06881844B2
A solution of 6-methylsulfanyl-1H-indole (1.30 g, 7.96 mmol) in tetrahydrofuran (5 mL) cooled to 0° C. was treated with trifluoroacetic anhydride (1.69 mL, 11.94 mmol) followed by additional tetrahydrofuran (5 mL). The reaction was stirred at 0° C. for 30 min and then was allowed to warm to 25° C. At this time, the reaction was poured into water (50 mL) and was stirred at 25° C. for 30 min. The resulting precipitate was collected by filtration and dried in vacuo. Due to the presence of approximately 10% unreacted 6-methylsulfanyl-1H-indole, the resulting solid was slurried in tetrahydrofuran (5 mL) and re-treated with trifluoroacetic anhydride (1.12 mL, 7.96 mmol). The reaction mixture was stirred at 25° C. for 2 d. At this time, the resulting solids were collected by filtration, washed with petroleum ether, and dried in vacuo to afford 2,2,2-trifluoro-1-(6-methylsulfanyl-1H-indol-3-yl)-ethanone (1.03 g, 50%) as a yellow solid: mp 237-239° C.; EI-HRMS m/e calcd for C11H9F3NOS (M+) 259.0279, found 259.0270.

reactant | 6-methylsulfanyl-1H-indole | 7.96 mmol, 1.30 g | CSC1=CC=C2C=CNC2=C1 | C9H9NS
reactant | trifluoroacetic anhydride | 11.94 mmol, 1.69 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 50 mL | O | H2O
reactant | trifluoroacetic anhydride | 7.96 mmol, 1.12 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(6-methylsulfanyl-1H-indol-3-yl)-ethanone | 1.03 g, 50% | FC(C(=O)C1=CNC2=CC(=CC=C12)SC)(F)F | C11H8F3NOS
